US04735949
To a solution of 5.7 g (0.022 mole) of trans-4 -phenyl-1-(phenylmethyl)-3-pyrrolidinecarbonitrile (Helv. Chim. Acta, 64, 2203 (1981)) in 30 ml tetrahydrofuran was added 0.83 g (0.022 mmol) of lithium aluminum hydride in portions under nitrogen. The reaction mixture was then stirred at room temperature for 18 hours. To the resulting suspension were added 1 ml of water, 0.8 ml of 40% sodium hydroxide, and 3 ml of water. The grainy precipitate was filtered and washed with tetrahydrofuran. The combined filtrates were concentrated to give 5.5 g of 4-phenyl-1-(phenylmethyl)-3-pyrrolidinemethanamine.

reactant | trans-4 -phenyl-1-(phenylmethyl)-3-pyrrolidinecarbonitrile | 0.022 mole, 5.7 g | C1(=CC=CC=C1)[C@H]1[C@@H](CN(C1)CC1=CC=CC=C1)C#N | C18H18N2
reactant | lithium aluminum hydride | 0.022 mmol, 0.83 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 1 ml | O | H2O
reactant | sodium hydroxide | 0.8 ml | [OH-].[Na+]
reactant | water | 3 ml | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4-phenyl-1-(phenylmethyl)-3-pyrrolidinemethanamine | 5.5 g | C1(=CC=CC=C1)C1C(CN(C1)CC1=CC=CC=C1)CN | C18H22N2
